US06727264B1
4-(4-CHLOROBUTOXY)-1,2-DIMETHYLBENZENE:
Prepared by Procedure U and Scheme AK using 3,4-dimethylphenol and 1-bromo-4-chlorobutane.

reactant | 3,4-dimethylphenol | CC=1C=C(C=CC1C)O | C8H10O
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | 4-(4-CHLOROBUTOXY)-1,2-DIMETHYLBENZENE | ClCCCCOC1=CC(=C(C=C1)C)C | C12H17ClO
